US04496567
3-(2-(Dimethylamino)ethoxy)anisole is reacted with boron tribromide to give 3-(2-(dimethylamino)ethoxy)phenol which is reacted with sodium hydride and N-(3-bromopropyl)phthalimide and the product deprotected with methylamine to give 3-(3-(2-(dimethylamino)ethoxy)phenoxy)propylamine.

reactant | 3-(2-(Dimethylamino)ethoxy)anisole | CN(CCOC=1C=C(C=CC1)OC)C | C11H17NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 3-(2-(dimethylamino)ethoxy)phenol | CN(CCOC=1C=C(C=CC1)O)C | C10H15NO2
